US05001125
A mixture of 4 parts of 6-chloro-3-(4-ethylphenoxy)pyridazine and 6 parts of 1-(3-methylphenyl)piperazine was stirred and heated for 3 hours in an oil bath at 110° C. The whole was alloWed to stand overnight. Concentrate ammonium hydroxide and trichloromethane were added. The precipitate was filtered off and the filtrate was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.7 parts (27%) of 3-(4-ethylphenoxy)-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine; mp. 106.6° C. (compound 221).

reactant | 6-chloro-3-(4-ethylphenoxy)pyridazine | ClC1=CC=C(N=N1)OC1=CC=C(C=C1)CC | C12H11ClN2O
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 3-(4-ethylphenoxy)-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | 27% | C(C)C1=CC=C(OC=2N=NC(=CC2)N2CCN(CC2)C2=CC(=CC=C2)C)C=C1 | C23H26N4O
